* # FILE NAME: /HOME/ECEGRID/A/559MG3/CADENCE/SIMULATION/XOR21_STATICCMOS/      
* HSPICES/EXTRACTED/NETLIST/XOR21_STATICCMOS.C.RAW
* NETLIST OUTPUT FOR HSPICES.
* GENERATED ON NOV 26 13:17:07 2014
   
* FILE NAME: PROJ_LIB_XOR21_STATICCMOS_EXTRACTED.S.
* SUBCIRCUIT FOR CELL: XOR21_STATICCMOS.
* GENERATED FOR: HSPICES.
* GENERATED ON NOV 26 13:17:07 2014.
   
C6 GD 2  69.9273E-18 M=1.0 
C7 GD 1  69.9273E-18 M=1.0 
C8 GD A_IN  127.2834E-18 M=1.0 
C9 VD A_IN  47.142E-18 M=1.0 
C10 B_IN GD  160.2828E-18 M=1.0 
C11 B_IN VD  26.7138E-18 M=1.0 
C12 GD 2  189.5436E-18 M=1.0 
C13 GD 1  189.5436E-18 M=1.0 
C14 VD 2  30.4272E-18 M=1.0 
C15 VD 1  30.4272E-18 M=1.0 
C16 VD A_IN  50.3892E-18 M=1.0 
C17 B_IN GD  50.3892E-18 M=1.0 
C18 OUT_XOR21 A_IN  454.8447E-18 M=1.0 
C19 OUT_XOR21 GD  181.134E-18 M=1.0 
C20 OUT_XOR21 VD  30.4272E-18 M=1.0 
C21 2 3  34.9776E-18 M=1.0 
C22 1 3  34.9776E-18 M=1.0 
C23 1 2  100.0224E-18 M=1.0 
C24 A_IN 3  34.9776E-18 M=1.0 
C25 A_IN 2  100.0224E-18 M=1.0 
C26 A_IN 1  100.0224E-18 M=1.0 
C27 GD 2  157.7223E-18 M=1.0 
C28 GD 1  236.2554E-18 M=1.0 
C29 VD 3  65.9682E-18 M=1.0 
C30 VD A_IN  348.0768E-18 M=1.0 
C31 B_IN 3  34.9776E-18 M=1.0 
C32 B_IN 2  100.0224E-18 M=1.0 
C33 B_IN 1  69.9552E-18 M=1.0 
C34 B_IN A_IN  34.9776E-18 M=1.0 
C35 B_IN GD  277.3737E-18 M=1.0 
C36 OUT_XOR21 3  68.2767E-18 M=1.0 
C37 OUT_XOR21 B_IN  127.7451E-18 M=1.0 
M38 1 A_IN VD VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=364.499988352029E-15 AS=364.499988352029E-15 PD=1.70999999227206E-6 
+PS=1.70999999227206E-6 M=1 
M39 2 B_IN VD VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=364.499988352029E-15 AS=364.499988352029E-15 PD=1.70999999227206E-6 
+PS=1.70999999227206E-6 M=1 
M40 VD 1 3 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=218.700003853239E-15 AS=400.949998029254E-15 PD=539.999973625527E-9 
+PS=1.7999999499807E-6 M=1 
M41 3 2 VD VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=218.700003853239E-15 AS=218.700003853239E-15 PD=539.999973625527E-9 
+PS=539.999973625527E-9 M=1 
M42 OUT_XOR21 A_IN 3 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=400.949998029254E-15 AS=218.700003853239E-15 PD=989.999989542412E-9 
+PS=539.999973625527E-9 M=1 
M43 3 B_IN OUT_XOR21 VD  TSMC18DP  L=180.000000682412E-9 W=810.000017281709E-9 
+AD=400.949998029254E-15 AS=400.949998029254E-15 PD=1.7999999499807E-6 
+PS=989.999989542412E-9 M=1 
M44 1 A_IN GD GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=153.900004719321E-15 AS=153.900004719321E-15 PD=1.35000004775065E-6 
+PS=1.35000004775065E-6 M=1 
M45 2 B_IN GD GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=153.900004719321E-15 AS=153.900004719321E-15 PD=1.35000004775065E-6 
+PS=1.35000004775065E-6 M=1 
M46 4 1 GD GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=72.8999990256586E-15 AS=166.049994392535E-15 PD=539.999973625527E-9 
+PS=1.4400000054593E-6 M=1 
M47 OUT_XOR21 2 4 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=89.0999988091383E-15 AS=72.8999990256586E-15 PD=629.999988177588E-9 
+PS=539.999973625527E-9 M=1 
M48 5 A_IN OUT_XOR21 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=48.5999993504391E-15 AS=89.0999988091383E-15 PD=360.000001364824E-9 
+PS=629.999988177588E-9 M=1 
M49 GD B_IN 5 GD  TSMC18DN  L=180.000000682412E-9 W=269.999986812763E-9 
+AD=153.900004719321E-15 AS=48.5999993504391E-15 PD=1.35000004775065E-6 
+PS=360.000001364824E-9 M=1 
   
   
   
   
   
.lib "$CDK_DIR/models/hspice/public/publicModel/tsmc18dP" PMOS 
.lib "$CDK_DIR/models/hspice/public/publicModel/tsmc18dN" NMOS 
   
   
* INCLUDE FILES
   
   
   
   
   
   
* END OF NETLIST
.TEMP    25.0000    
.OP
.save
.OPTION  INGOLD=2 ARTIST=2 PSF=2
+        PROBE=0
vVD VD 0 DC=1.8v
vGD GD 0 DC=0v
.END
