// Generated for: spectre
// Generated on: Oct 29 18:49:45 2014
// Design library name: hw1
// Design cell name: Inverter
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/package/eda/cells/ncsu-cdk-1.5.1/local/models/hspice/public/publicModel/tsmc18dP"
include "/package/eda/cells/ncsu-cdk-1.5.1/local/models/hspice/public/publicModel/tsmc18dN"

// Library name: hw1
// Cell name: Inverter
// View name: schematic
P0 (OUT IN vdd! vdd!) tsmc18dP w=900n l=180.0n as=4.05e-13 ad=4.05e-13 \
        ps=2.7u pd=2.7u m=1 region=sat
N1 (OUT IN 0 0) tsmc18dN w=360.0n l=180.0n as=1.62e-13 ad=1.62e-13 \
        ps=1.62u pd=1.62u m=1 region=sat
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub pwr=all
